US08664214B2
3-Chloroperbenzoic acid (19.3 mg, 0.112 mmol) was added to a solution of 5-((2,6-dimethyl-4-phenylpyridin-3-yl)methoxy)-2-(2-(trifluoromethoxy)-ethyl)isoindolin-1-one (40 mg, 0.074 mmol, 85% pure) in DCM. After stiffing overnight the reaction mixture was diluted with DCM, sat. aqueous NaHCO3 solution was added. Extraction with DCM, washing of the combined organic layers with water, drying over MgSO4 followed by purification by HPLC provided 2,6-dimethyl-3-((1-oxo-2-(2-(trifluoromethoxy)ethyl)-isoindolin-5-yloxy)methyl)-4-phenylpyridine 1-oxide (23 mg, 64%). ESI-MS [M+H]+=473.1.

reactant | 3-Chloroperbenzoic acid | 0.112 mmol, 19.3 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-((2,6-dimethyl-4-phenylpyridin-3-yl)methoxy)-2-(2-(trifluoromethoxy)-ethyl)isoindolin-1-one | 0.074 mmol, 40 mg | CC1=NC(=CC(=C1COC=1C=C2CN(C(C2=CC1)=O)CCOC(F)(F)F)C1=CC=CC=C1)C | C25H23F3N2O3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2,6-dimethyl-3-((1-oxo-2-(2-(trifluoromethoxy)ethyl)-isoindolin-5-yloxy)methyl)-4-phenylpyridine 1-oxide | 23 mg, 64% | CC1=[N+](C(=CC(=C1COC=1C=C2CN(C(C2=CC1)=O)CCOC(F)(F)F)C1=CC=CC=C1)C)[O-] | C25H23F3N2O4
